US07071175B1
Thioacetic acid (4 mL), which had been cooled to 0° C., was added to a mixture of 2-(cis4-tert-butoxycarbonylamino-cyclopent-2-enylmethyl)-acrylic acid ethyl ester (0.56 g, 1.9 mmol) and triethyl amine (0.28 mL, 2.0 mmol) at 0° C. The reaction mixture was stirred at 0° C. for 30 min, at room temperature for 19 h and then poured onto ice-water (400 mL). The aqueous layer was extracted with CH2Cl2. The organic phase was washed with saturated NaHCO3, dried and concentrated under reduced pressure to give 1.7 g of the crude product. Purification by flash chromatography (CH2Cl2/EtOAc: 1/0→68/32) afforded 2-acetylsulfanylmethyl-3-(cis4-tert-butoxycarbonylamino-cyclopent-2-enyl)-propionic acid ethyl ester (0.46 g, 65%).

reactant | Thioacetic acid | 4 mL | C(C)(=S)O | C2H4OS
reactant | 2-(cis4-tert-butoxycarbonylamino-cyclopent-2-enylmethyl)-acrylic acid ethyl ester | 1.9 mmol, 0.56 g | C(C)OC(C(=C)C[C@@H]1C=C[C@@H](C1)NC(=O)OC(C)(C)C)=O | C16H25NO4
reactant | triethyl amine | 2.0 mmol, 0.28 mL | C(C)N(CC)CC | C6H15N
product | 2-acetylsulfanylmethyl-3-(cis4-tert-butoxycarbonylamino-cyclopent-2-enyl)-propionic acid ethyl ester | 0.46 g, 65% | C(C)OC(C(C[C@@H]1C=C[C@@H](C1)NC(=O)OC(C)(C)C)CSC(C)=O)=O | C18H29NO5S
